US04791124
In a manner similar to Example 1, the reaction of 2-amino-1-(5-methylthienyl)ethanone hydrochloride (2.6 g, 0.014 mole) in methylene chloride (75 ml) with 3,5-bis(trifluoromethyl)benzoyl chloride (3.8 g, 0.014 mole) and 2N sodium hydroxide solution (13.7 ml) yielded 4.6 g of N-[2-(5-methylthienyl)-2-oxoethyl]-3,5-bis(trifluoromethyl)benzamide as a solid.

reactant | 2-amino-1-(5-methylthienyl)ethanone hydrochloride | 0.014 mole, 2.6 g | Cl.NCC(=O)C=1SC(=CC1)C
reactant | 3,5-bis(trifluoromethyl)benzoyl chloride | 0.014 mole, 3.8 g | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
reactant | sodium hydroxide | 2N, 13.7 ml | [OH-].[Na+]
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(5-methylthienyl)-2-oxoethyl]-3,5-bis(trifluoromethyl)benzamide | 4.6 g | CC1=CC=C(S1)C(CNC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C16H11F6NO2S
